US08207164B2
b) 3-Chloro-5-fluoromethoxy-pyridine-2-carbonitrile
To a solution of 3-chloro-5-hydroxy-pyridine-2-carbonitrile (315 mg, 2.03 mmol) in DMF (16 ml) was added Cs2CO3 (1.652 g, 5.07 mmol) and toluene-4-sulfonic acid fluoromethyl ester (CAS registry 114435-86-8) (621 mg, 3.04 mmol) and the reaction mixture was heated at 80° C. for 24 h. The solvent was removed under reduced pressure and the residue taken up in TBME, washed with water and brine, dried over MgSO4, filtered and concentrated. The title compound was obtained as a yellow oil after chromatography on silica gel (hexane-EtOAc 10:1 to 2:1) to provide the title compound as a light yellow oil: TLC (hexane-EtOAc 1:1): Rf=0.62;

reactant | 3-chloro-5-hydroxy-pyridine-2-carbonitrile | 2.03 mmol, 315 mg | ClC=1C(=NC=C(C1)O)C#N | C6H3ClN2O
reactant | Cs2CO3 | 5.07 mmol, 1.652 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | toluene-4-sulfonic acid fluoromethyl ester | 3.04 mmol, 621 mg | FCOS(=O)(=O)C1=CC=C(C=C1)C | C8H9FO3S
solvent | DMF | 16 ml | CN(C)C=O | C3H7NO
product | 3-Chloro-5-fluoromethoxy-pyridine-2-carbonitrile | ClC=1C(=NC=C(C1)OCF)C#N | C7H4ClFN2O
